US05728835
4-Tetrahydropyranyloxymethyl-N-(2-methoxyphenyl)benzenesulfonamide
4-Hydroxymethyl-N-(2-methoxyphenyl)benzenesulfonamide (99.6 mg, 0.34 mmol) was dissolved in methylene chloride (3 ml) to which, with cooling in an ice bath, were subsequently added 3,4-dihydro-2H-pyrane (48 μl, 0.51 mmol) and a catalytically effective amount of p-toluenesulfonic acid monohydrate. After 90 minutes of stirring at the same temperature, the reaction solution was mixed with saturated sodium bicarbonate aqueous solution (5 ml) and extracted with ether. The resulting organic layer was washed with saturated brine and dried on anhydrous magnesium sulfate, and the solvent was removed by evaporation. Thereafter, the thus obtained light yellow oily material was purified by a silica gel column chromatography (ether:hexane=1:1) to obtain 117 mg (91.2%) of the title compound in the form of colorless solid.

reactant | 4-Hydroxymethyl-N-(2-methoxyphenyl)benzenesulfonamide | 0.34 mmol, 99.6 mg | OCC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC | C14H15NO4S
reactant | 3,4-dihydro-2H-pyrane | 0.51 mmol, 48 μl | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | 5 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-Tetrahydropyranyloxymethyl-N-(2-methoxyphenyl)benzenesulfonamide | 117 mg, 91.2% | O1C(CCCC1)OCC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC | C19H23NO5S
